US06479487B1
2-Chloro-6-[2,6-dichlorophenylhydrazino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 2,6-dichlorophenylhydrazine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 2,6-dichlorophenylhydrazine | ClC1=C(C(=CC=C1)Cl)NN | C6H6Cl2N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[2,6-dichlorophenylhydrazino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NNC1=C(C=CC=C1Cl)Cl | C16H15Cl3N6
